US05665718
2.1 ml (10.5 mmol) of N-ethyldiisopropylamine and 0.6 ml (7 mmol) of allyl bromide were added to a solution of 650 mg (1.76 mmol) of (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-7,8-difluoro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 40 ml of methylene chloride and the mixture was stirred at room temperature for 20 hours. The reaction solution was subsequently diluted with methylene chloride and washed three times with water. The organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was chromatographed twice (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:0.1). There were obtained 625 mg (78%) of (S)-1-[5-(diallylaminomethyl)-1,2,4-oxadiazol-3-yl]-7,8-difluoro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c]-[1,4]benzodiazepin-9-one as a colourless foam, Rf=0.45 (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:0.1).

reactant | N-ethyldiisopropylamine | 10.5 mmol, 2.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 7 mmol, 0.6 ml | C(C=C)Br | C3H5Br
reactant | (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-7,8-difluoro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 1.76 mmol, 650 mg | NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3F)F)=O)CCC1 | C17H14F2N6O2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-[5-(diallylaminomethyl)-1,2,4-oxadiazol-3-yl]-7,8-difluoro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c]-[1,4]benzodiazepin-9-one | 625 mg, 78% | C(C=C)N(CC=C)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3F)F)=O)CCC1 | C23H22F2N6O2
